US09303023B2
To a solution of 5-(m-tolyl)oxazole-4-carboxylic acid (1.60 g, 7.87 mmol) in DCM (15 mL), tert-butyl(2-(4-amino-1H-pyrazol-1-yl)ethyl)carbamate (1.80 g, 7.96 mmol), DIPEA (6.8 mL, 39.86 mmol) and HATU (7.485 g, 19.69 mmol) was added. After stirring the reaction mixture at rt for 18 h, the reaction mixture was diluted with DCM and H2O. The org. layer was separated and the aq. layer was extracted with DCM (3×). The combined org. layers wered dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (EtOA/hex 3:7 to 1:1) yielded tert-butyl(2-(4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl)carbamate as a white solid. LC-MS conditions B: tR=0.8 min, [M+H]+=412.46.

reactant | 5-(m-tolyl)oxazole-4-carboxylic acid | 7.87 mmol, 1.60 g | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
reactant | tert-butyl(2-(4-amino-1H-pyrazol-1-yl)ethyl)carbamate | 7.96 mmol, 1.80 g | C(C)(C)(C)OC(NCCN1N=CC(=C1)N)=O | C10H18N4O2
reactant | DIPEA | 39.86 mmol, 6.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 19.69 mmol, 7.485 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | tert-butyl(2-(4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl)carbamate | C(C)(C)(C)OC(NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)=O | C21H25N5O4
